US07375087B2
{4-[2-(Benzyloxycarbonyl)ethoxy]phenyl}methanol
To a mixture of 3-[4-(hydroxymethyl)phenoxy]propionic acid (0.98 g) and potassium carbonate (0.9 g) in N,N-dimethylformamide (5 mL) was added benzyl bromide (0.65 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-1/1) to give the title compound (1.1 g).

reactant | 3-[4-(hydroxymethyl)phenoxy]propionic acid | 0.98 g | OCC1=CC=C(OCCC(=O)O)C=C1 | C10H12O4
reactant | potassium carbonate | 0.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.65 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | {4-[2-(Benzyloxycarbonyl)ethoxy]phenyl}methanol | 1.1 g | C(C1=CC=CC=C1)OC(=O)CCOC1=CC=C(C=C1)CO | C17H18O4
